US04710503
3-butyl-8-ethyl-6-thioxanthine
11.8 g (50 mM.) of 3-butyl-8-ethyl-xanthine (mp 304°-9° C., and 18.2 g (82 nM.) of phosphorus pentasulfide were refluxed in 170 ml of pyridine for 2 hrs. The solution was cooled to ambient temperature and treated slowly with 110 ml. of water (exothermic). The suspension was concentrated to 100 ml. in vacuo at 60° C., further diluted with 140 ml. of water, and concentrated again to about 120 ml. The crude product was collected and washed with ice water. The dried material (11.1 g.) was dissolved in about 100 ml. of chloroform, and the solution filtered through 55 g. of silicagel. The chloroform was evaporated and the residue crystallized from acetone-ether: 7.2 g. (57.5%) of 3-butyl-8- ethyl-6-thioxanthine, mp. 206°-7° C. From the mother liquor, a second crop of 2.1 g. (16.3%) was obtained.

reactant | 3-butyl-8-ethyl-xanthine | 50 mM, 11.8 g | C(CCC)N1C(NC(C=2NC(=NC12)CC)=O)=O | C11H16N4O2
reactant | phosphorus pentasulfide | 82 nM, 18.2 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | water | O | H2O
solvent | pyridine | 170 ml | N1=CC=CC=C1 | C5H5N
product | 3-butyl-8-ethyl-6-thioxanthine | C(CCC)N1C(NC(C=2NC(=NC12)CC)=S)=O | C11H16N4OS
